US07470679B2
(R)-3-(7-chloro-4-((2,2,2-trifluoroethylamino)methyl)-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate
(R)-3-(7-chloro-4-(chloromethyl)-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate (6.80 g, 16.7 mmol) in acetonitrile (70.0 ml, 1340 mmol) was added 2,2,2-trifluoroethylamine (8.27 g, 84 mmol). After 20 min, potassium carbonate (2.308 g, 16.70 mmol) was added and the reaction mixture was refluxed for 2 h. The solvent was evaporated and the crude product was dissolved in a mixture of dichloromethane and chloroform. A thick emulsion formed and addition of methanol provided a clear organic phase. The organic layer was dried (Na2SO4), the solvent was removed and the crude product was used as such for the next step. MS (ESI) 470 (M+H); Rf=1.56.

reactant | (R)-3-(7-chloro-4-(chloromethyl)-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate | 16.7 mmol, 6.80 g | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)OC)CC=1C(=C2C=NNC2=C(C1)Cl)CCl | C19H16Cl2N2O4
reactant | acetonitrile | 1340 mmol, 70.0 ml | C(C)#N | C2H3N
reactant | 2,2,2-trifluoroethylamine | 84 mmol, 8.27 g | FC(CN)(F)F | C2H4F3N
reactant | potassium carbonate | 16.70 mmol, 2.308 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | (R)-3-(7-chloro-4-((2,2,2-trifluoroethylamino)methyl)-1H-indazol-5-yl)-1-methoxy-1-oxopropan-2-yl benzoate | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)OC)CC=1C(=C2C=NNC2=C(C1)Cl)CNCC(F)(F)F | C21H19ClF3N3O4
